Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Chest Pressure on Exertion
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ with HTN, HLP, colon cancer s/p remote sigmoid colectomy, 
presents from home with 5 days of dyspnea and chest tightness 
with exertion.  
 She has never had similar symptoms before. The symptoms go away 
with 5 minutes of rest. They occur with rest, exercise, and 
sometimes with emotion. Does not recall any episodes with rest. 
They worsened today, prompting ED visit. She took ASA 81mg at 
home. In the ED initial vitals were: T98.4 90 166/99 16 97% RA. 
EKG with NSR, LAD, no acute changes. Labs notable for: CBC, Chem 
panel normal, TnT neg, BNP 555, UA negative, CXR clear. She was 
given additional aspirin 243mg and admitted to ___.  
 On the floor, she has no complaints. No recent air travel or 
sick contacts. Recent train trip to ___. Normally very 
active but recently cannot do several flights of stairs due to 
symptoms. Recent GERD and heartburn which are not temporally 
related to dyspnea or chest pain.  

ROS:  
 Positive for chest pain and dyspnea with exertion. Denies 
fevers, chills, palpitations, syncope, nausea, vomiting, 
abdominal pain, diarrhea, constipation, dysuria, frequency. 
 
Past Medical History:
-Hypertension  
-Hyperlipidemia  
-S/p TAH/BSO for benign disease  
-Colon cancer s/p sigmoid colectomy in ___ with no positive 
nodes  
-History of tobacco abuse  
 
Social History:
___
Family History:
Brother with pacemaker for "slow heart rate". Multiple family 
members with diabetes, no early CAD, SCD, MI, CVA in family
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VS: T98.9 153/94 72 20 95RA 80.4kg  
GEN: Well appearing middle aged woman in no distress  
HEENT: Sclera anicteric  
HEART: RRR, normal S1 S2, no murmurs  
LUNGS: Clear, no wheezes or rales  
ABD: Soft, NT ND, normal BS  
EXT: Trace ankle edema, calves symmetric, no calf tenderness  

DISCHARGE PHYSICAL EXAM:
========================
VS: T 98.3 BP 117-126/79  HR 74  RR 18 O2 sat 99% RA
EKG: sinus tachycardia
GENERAL: Pleasant woman, in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
slightly injected
No erythema or blood noted in nares b/l 
NECK: Supple with JVP about 5-6 cm, no distention noted 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. 
LUNGS: No chest wall deformities Resp were unlabored, no 
accessory muscle use. CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, tender to deep palpation in RLQ, no rebound 
tenderness, small palpable collection in the area
Neuro: intact ___ strength, no facial asymmetry, CN II-XII 
intact
EXTREMITIES: No c/c/e
 
Pertinent Results:
ADMISSION LABS:
=================
___ 11:56PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 07:30PM   GLUCOSE-98 UREA N-18 CREAT-0.9 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-99 TOTAL CO2-26 ANION GAP-19
___ 07:30PM   cTropnT-<0.01
___ 07:30PM   proBNP-555*
___ 07:30PM   CHOLEST-252*
___ 07:30PM   TRIGLYCER-88 HDL CHOL-105 CHOL/HDL-2.4 
LDL(CALC)-129
___ 07:30PM   WBC-5.7 RBC-4.11 HGB-13.4 HCT-40.1 MCV-98 
MCH-32.6* MCHC-33.4 RDW-13.0 RDWSD-46.6*
___ 07:30PM   NEUTS-60.2 ___ MONOS-12.3 EOS-0.7* 
BASOS-0.5 IM ___ AbsNeut-3.44 AbsLymp-1.49 AbsMono-0.70 
AbsEos-0.04 AbsBaso-0.03

PERTINENT LABS:
===============
___ 11:03AM BLOOD D-Dimer-86___*
___ 07:30PM BLOOD %HbA1c-5.9 eAG-123
___ 07:30PM BLOOD Triglyc-88 HDL-105 CHOL/HD-2.4 
LDLcalc-129

DISCHARGE LABS:
================
___ 08:00AM BLOOD WBC-4.6 RBC-4.67 Hgb-14.9 Hct-45.0 MCV-96 
MCH-31.9 MCHC-33.1 RDW-12.6 RDWSD-44.5 Plt ___
___ 08:00AM BLOOD Glucose-124* UreaN-19 Creat-0.9 Na-136 
K-3.7 Cl-97 HCO3-26 AnGap-17
___ 08:00AM BLOOD ALT-12 AST-21 AlkPhos-101 TotBili-0.7
___ 08:00AM BLOOD Calcium-9.9 Phos-3.8 Mg-2.1

IMAGING:
========
___ Bilateral Lower Extremity Ultrasound: Echogenic material 
is visualized in the right greater saphenous vein with decreased 
compressibility and slow flow, compatible with a non-occlusive 
thrombus in the superficial right greater saphenous vein.  No 
evidence of deep
vein thrombosis in the bilateral extremities.

___ ECHO:
The left atrial volume index is normal. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). The right 
ventricular cavity is mildly dilated with normal free wall 
contractility. The diameters of aorta at the sinus, ascending 
and arch levels are normal. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. There is mild pulmonary artery 
systolic hypertension. There is no pericardial effusion. 

IMPRESSION: Mildly dilated right ventricle with normal global 
and regional biventricular systolic function. Mild pulmonary 
hypertension.

___ CT Head Without Contrast: There is no evidence of 
infarction, hemorrhage, edema, or mass. The ventricles and sulci 
are normal in size and configuration.There is no evidence of 
fracture.  The visualized portion of the paranasal sinuses, 
mastoid air cells, and middle ear cavities are clear.  The 
visualized portion of the orbits are unremarkable.

___ CT Abdomen and Pelvis with Contrast:  
1. Normal appendix.
2. 3.5 x 2.6 x 6.0 cm right rectus sheath hematoma with a tiny 
focus of
central hyperdensity which could represent venous or arterial 
extravasation. No retroperitoneal hematoma.
3. Partially imaged dilated proximal right greater saphenous 
vein.  Presence of thrombus is difficult to assess due to timing 
of contrast.  Consider lower extremity venous ultrasound for 
further evaluation.
4. 1.8 cm hypodense ovoid lesion along the right gluteal cleft 
which could represent an epidermal inclusion cyst.  This can be 
correlated with physical exam.

___ EKG: Sinus rhythm with slowing of the rate as compared to 
the previous tracingof ___. Left atrial abnormality. The P 
waves are tall and peaked with rightward P wave axis consistent 
with right atrial abnormality. No diagnostic interim change.

___ CTA: 
1. Multiple bilateral lobar, segmental, and subsegmental 
pulmonary emboli.No CT evidence of right heart strain or 
pulmonary infarction. 
2. No acute aortic pathology. 
3. Incidentally noted tiny 5 mm splenic artery aneurysm. 
4. Tiny enhancing focus in the liver is likely perfusional or a 
small FNH. In the absence of a history of liver disease or known 
malignancy, significance is doubtful. 

___ Chest PA and Lat: Hyperinflated lungs, suggesting chronic 
obstructive pulmonary disease.  No focal consolidation. 

 
Brief Hospital Course:
___ with HTN, HLP, colon cancer s/p remote sigmoid colectomy, 
presents from home with 5 days of dyspnea and chest tightness 
with exertion, found to have pulmonary embolism. Her hospital 
course was complicated by workup of left sided face and hand 
numbness and RLQ pain, found to have no new intracranial 
pathology, with a right rectus hematoma and superficial 
saphenous vein thrombosis.

# Chest tightness: The patient's symptoms of dyspnea and chest 
tightness were initially concerning for new onset angina, given 
her risk factors of HTN and HLD, and a remote history of 
smoking. The patient's aspirin was continued, and the statin was 
changed from Simvastatin 20mg to Atorvastatin 80mg. On 
presentation, patient denied any shortness of breath or 
respiratory symptoms, but was noted to be satting at 93-96% RA. 
A d-dimer was sent, which was elevated at 8698. A CTA showed 
multiple bilateral lobar, segmental, and subsegmental pulmonary 
emboli. No CT evidence of right heart strain or pulmonary 
infarction. Of note, the patient has a past hx of malignancy 
with colon cancer, no known active malignancy, with no known 
reason for anticoagulation changes. She was started on 
enoxaparin 80 mg SC Q12H and rivaroxaban 15mg BID. The 
enoxaparin was stopped on ___, and the patient was 
discharged on rivaroxaban 15 mg BID for 3 wks, then 20 mg daily 
for at least six months. She will also have outpatient heme 
follow up for possible hypercoagulable state and to discuss 
duration of anticoagulation as well as follow up with her 
primary care physician.

#Left Sided Numbness: On ___, patient developed sudden left 
face and arm numbness, concerning for a hemmorhagic etiology 
given recent start of anticoagulation. Patient's neurological 
exam was intact, with no focal deficits noted. Patient's 
symptoms also improved over time, with no gross new findings on 
the CT head non contrast. This could have been a TIA, and 
patient was on Aspirin on admission and discharge. These 
symptoms did not return.

#Right Rectus Hematoma: Patient complained of RLQ pain, 
exacerbated with movement, with finding of a stable hematoma on 
CT abdomen. Her CBC was stable with no indication of 
extravasion. Patient was recommended over the counter pain 
control and outpatient follow up.

#Superficial Saphenous Venous Thrombosis: Patient did not have 
any deep venous thrombosis, and was continued on anticoagulation 
as above.

#Chest Pressure: Patient's initial presentation was concerning 
for angina. She was continued on Aspirin, with a normal HgA1c 
and Lipid Panel. 

# HTN: The patient was continued on her home Atenolol 50 mg 
daily.
 
# HLP: Given concern for angina/CAD on presentation, the 
patient's statin was changed from Simvastatin 20mg to 
Atorvastatin 80mg. The patient's lipids were checked, showing 
triglycerides of 88, HDL of 105, and LDL of 129. The patient's 
home statin was restarted on discharge. 

TRANSITIONAL ISSUES
===================
-obtain CBC and PCP ___ appointment (last H/H 14.___)
-New Medications: Rivaroxaban 15 mg BID for 3 weeks which should 
then convert to maintenance dosing of 20 mg daily on ___. 
Please take this medication with food.
-Patient with seemingly unprovoked PE, with hx of colon cancer 
in ___, would likely benefit from cancer screening (possible 
repeat colonoscopy). Hypercoagulable workup can also be 
considered.
-Incidental findings on imaging:
-1.8 cm hypodense ovoid lesion along the right gluteal cleft 
which could represent an epidermal inclusion cyst. This can be 
correlated with physical exam. 
-Incidentally noted tiny 5 mm splenic artery aneurysm. 
# CODE: Full confirmed 
# CONTACT: daughter ___ ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. Atenolol 50 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral BID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral BID 
4. Simvastatin 20 mg PO QPM 
5. Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [Xarelto] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth once a day Disp #*1 Dose Pack Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
-Pulmonary Embolism
-Superficial Venous Thrombosis 
-Right Rectus Hematoma

SECONDARY DIAGNOSIS:
-Hypertension
-Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
  You were admitted to ___ on ___ after you felt some 
chest pressure with movement. Your CT scan of your lungs showed 
pulmonary embolism, which means a clot in your lungs. You were 
started on blood thinners for this, which you need to be on for 
at least 6 months.  You must your blood thinning medication 
(Rivaroxiban) with food to make sure that it is effective. 

You complained of some left sided numbness and tingling, but we 
did not find any problems with a CT scan of your head. We also 
did a scan of your legs, finding a clot in a superficial vein 
which does not need further care.

For your abdominal pain, we found a small blood collection 
called a hematoma but no evidence of any infection. Please use 
Tylenol as needed for pain relief.  You should call your primary 
care doctor if your pain is becoming worse, you are feeling 
dizzy/lightheaded, or you have red or black/tarry bowel 
movements. 

Please follow up with your primary care doctor (___) as 
listed below, and also with the blood doctor (___).

We wish you the best
Your ___ team
 
Followup Instructions:
___